US05986105
C. 4-Benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylic acid amide
1.1 g (11 mmol) of triethylamine and then 1.15 g (12 mmol) of methyl chloroformate are added dropwise to 3 g (10 mmol) of 4-benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylic acid in 20 ml of absolute tetrahydrofiran at 0° C. The mixture is stirred at 0° C. for a further hour and the solution is poured onto 20 ml of ammonia solution. The mixture is stirred at room temperature for 1 hour and extracted several times with chloroform, and the extracts are dried over MgSO4 and concentrated, whereupon the product crystallizes.

reactant | triethylamine | 11 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 12 mmol, 1.15 g | ClC(=O)OC | C2H3ClO2
reactant | 4-benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylic acid | 10 mmol, 3 g | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)C3)C(=O)O)=O | C17H15NO4
solvent | ammonia | 20 ml | N | H3N
product | 4-Benzyl-3,5-dioxo-4-azatricyclo[5.2.1.02,6 ]dec-8-ene-1-carboxylic acid amide | C(C1=CC=CC=C1)N1C(C2C3(C=CC(C2C1=O)C3)C(=O)N)=O | C17H16N2O3
